US04684656
(C) 1, 2, 3, 4-Tetrahydro-6-methyl-4-(3-nitrophenyl)-3-(phenylsulfonyl) -2-thioxo-5-pyrimidinecarboxylic acid, ethyl ester
A solution of 0.95 g (0.0016 mole) of 1, 6-dihydro-2-[(4-methoxyphenyl)methyl]thio]-4-methyl -6-(3-nitrophenyl)-1-(phenylsulfonyl)-5pyrimidinecarboxylic acid, ethyl ester, 0.6 ml (0.0066 mole) of trifluoroacetic acid and 0.24 g (0.0037 mole) of ethanethiol in 20 ml of dichloromethane was stirred at room temperature overnight. The solvent was evaporated and the residue (solid) was treated with isopropyl ether to give 0.68 g of the title compound as a colorless solid, melting point 162°-164° C. Analysis Calc'd. for C20H19N3O6S2 : C, 52.04; H, 4.14; N, 9.10; S, 13.89. Found: C, 51.77; H, 4.09; N, 8.96; S, 13.71.

reactant | 4-methyl -6-(3-nitrophenyl)-1-(phenylsulfonyl)-5pyrimidinecarboxylic acid, ethyl ester | CC1=NCN(C(=C1C(=O)OCC)C1=CC(=CC=C1)[N+](=O)[O-])S(=O)(=O)C1=CC=CC=C1 | C20H19N3O6S
reactant | trifluoroacetic acid | 0.0066 mole, 0.6 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | ethanethiol | 0.0037 mole, 0.24 g | C(C)S | C2H6S
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 1, 2, 3, 4-Tetrahydro-6-methyl-4-(3-nitrophenyl)-3-(phenylsulfonyl) -2-thioxo-5-pyrimidinecarboxylic acid, ethyl ester | 0.68 g | CC1=C(C(N(C(N1)=S)S(=O)(=O)C1=CC=CC=C1)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC | C20H19N3O6S2
